US07851473B2
N-[6-(Acetylamino)pyridin-3-yl]-4-(5-methyl-4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl [6-(acetylamino)pyridin-3-yl]carbamate (277 mg, 0.848 mmol), 1-(5-methyl-4-phenyl-1,3-thiazol-2-yl)piperazine (200 mg, 0.771 mmol) and diisopropylethylamine (0.148 ml, 0.848 mmol) in dimethylsulfoxide (2.6 ml) was stirred at 70° C. for 18 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 161 mg (47.8%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl [6-(acetylamino)pyridin-3-yl]carbamate | 0.848 mmol, 277 mg | C(C)(=O)NC1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C10H10Cl3N3O3
reactant | 1-(5-methyl-4-phenyl-1,3-thiazol-2-yl)piperazine | 0.771 mmol, 200 mg | CC1=C(N=C(S1)N1CCNCC1)C1=CC=CC=C1 | C14H17N3S
reactant | diisopropylethylamine | 0.848 mmol, 0.148 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 2.6 ml | CS(=O)C | C2H6OS
product | N-[6-(Acetylamino)pyridin-3-yl]-4-(5-methyl-4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | 161 mg, 47.8% | C(C)(=O)NC1=CC=C(C=N1)NC(=O)N1CCN(CC1)C=1SC(=C(N1)C1=CC=CC=C1)C | C22H24N6O2S
